US05258378
N-(2-Hydroxy-2-phenylethyl)-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine
A mixture of 2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine (1.8 g), styrene oxide (0.51 g) and acetonitrile (20 ml) were refluxed for three days. The solution was evaporated and the brown oil was purified by chromatography on silica, eluting with dichloromethane, chloroform then with increasing amounts of methanol (1→10%) in chloroform, to give the title product as a brown oil.

reactant | 2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine | 1.8 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1)CCN | C12H14N2O2S
reactant | styrene oxide | 0.51 g | C1C(C2=CC=CC=C2)O1 | C8H8O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-(2-Hydroxy-2-phenylethyl)-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine | OC(CNCCC1=CN(C=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O3S
